US08232294B2
(R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(methylamino)acetate hydrochloride
The title compound was prepared according to the procedure described in Example 59 Step 3 by using (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl 2-(methylamino)acetate (100 mg, 0.168 mmol) and a saturated solution of HCl in EtOAc (10 mL). The desired compound was obtained as a yellow solid (80.7 mg, 72%).

reactant | (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl 2-(methylamino)acetate | 0.168 mmol, 100 mg | CNCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=NC=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)=O)=O)C1=CC=CC=C1)C | C32H32N6O6
reactant | HCl | Cl | ClH
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(methylamino)acetate hydrochloride | Cl.CNCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=NC=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)=O)=O)C1=CC=CC=C1)C | InChI=1S/C32H32N6O6.ClH/c1-20(43-29(39)18-33-3)19-37-21(2)30(32(41)38(37)22-8-6-5-7-9-22)31(40)36-28-13-11-24(17-35-28)44-27-14-15-34-26-16-23(42-4)10-12-25(26)27;/h5-17,20,33H,18-19H2,1-4H3,(H,35,36,40);1H/t20-;/m1./s1
